US06911447B2
Preparation of 2-(2-hydroxyethyl)-4-(1-methylcarbamoyl-2-naphthalen-2-ylethyl)piperazine-1-carboxylic acid tert-butyl ester (60):
A solution of 2-[2-(tert-butyldimethylsilanyloxy)ethyl]4-(1-methylcarbamoyl-2-naphthalen-2-ylethyl)-piperazine-1-carboxylic acid tert-butyl ester, 59, (15.9 g, 23.5 mmol) and 1 M tetrabutylammonium fluoride (40 mL) is stirred for 24 hours. The reaction solution is filtered through a pad of silica gel, the filtrate is concentrated in vacuo, and the resulting crude product purified over silica gel (EtOAc/hexane 1:2, 1:1, then 5% methanol in EtOAc) to afford the desired product.

reactant | 2-[2-(tert-butyldimethylsilanyloxy)ethyl]4-(1-methylcarbamoyl-2-naphthalen-2-ylethyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(CC1=CC2=CC=CC=C2C=C1)C(NC)=O)CCO[Si](C)(C)C(C)(C)C | C31H49N3O4Si
solvent | tetrabutylammonium fluoride | 1 M, 40 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(2-hydroxyethyl)-4-(1-methylcarbamoyl-2-naphthalen-2-ylethyl)piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(CC1=CC2=CC=CC=C2C=C1)C(NC)=O)CCO | C25H35N3O4
